US08791114B2
Step 3: Synthesis of 3-chloro-1-(3-fluorobenzoyl)-4,5-dihydro-1H-pyrazole
Phosphorus oxychloride (54 ml for 5.4 gm of SM, 10 volume) was added drop wise directly to 1-(3-fluorobenzoyl)pyrazolidin-3-one (5.4 gm, 0.0238 mmol, 1 equiv.) at 0° C. and then refluxed at 85° C. for an hour. The reaction mixture was cooled to RT, concentrated and basified with solid NaCO3 (pH: 8-9), extracted with dichloromethane (100 ml×2) and concentrated. The crude product was purified by silica gel column using (60-120) mesh to get the pure product as off green solid (4.8, 88.9% yield).

reactant | Phosphorus oxychloride | 54 ml, 5.4 gm | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-(3-fluorobenzoyl)pyrazolidin-3-one | 0.0238 mmol, 5.4 gm, 1 equiv. | FC=1C=C(C(=O)N2NC(CC2)=O)C=CC1 | C10H9FN2O2
product | 3-chloro-1-(3-fluorobenzoyl)-4,5-dihydro-1H-pyrazole | 88.9% yield | ClC1=NN(CC1)C(C1=CC(=CC=C1)F)=O | C10H8ClFN2O
